US07208495B2
N-benzyl-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-amine
Methane sulfonyl chloride (0.12 mL, 1.55 mmol) was added dropwise to a solution of 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol (300 mg, 0.757 mmol) obtained in Reference Example 18 and triethylamine (0.4 mL, 2.87 mmol) in THF (3 ml) under ice cooling. The reaction mixture was stirred for 10 minutes and then benzylamine (0.4 mL, 3.66 mmol) was added. The resulting mixture was stirred under ice cooling for 1 hour. The reaction mixture was poured into 1N aqueous potassium carbonate and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane then hexane/ethyl acetate=5/1) to obtain 280 mg (yield 76%) of the title compound via recrystallization (ethanol). mp. 93–95° C.

reactant | Methane sulfonyl chloride | 1.55 mmol, 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | 0.757 mmol, 300 mg | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O3
reactant | triethylamine | 2.87 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 3.66 mmol, 0.4 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 1N | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-benzyl-5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-amine | 280 mg, yield 76% | C(C1=CC=CC=C1)NC1C(OC2=C1C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C)(C)C | C31H39N3O2
